US06235771B1
To a solution of 4-bromo-2-methylphenol (9.3 g) in DMF (50 ml) was added potassium carbonate (9.62 g) and then was added dropwise 2.-bromoethyl ethyl ether (7.99 g), and the mixture was stirred at 70° C. for 3 days. To the mixture was added dropwise 2-bromoethyl ethyl ether (1.52 g), and the mixture was stirred at 70° C. for 4.5 hours and cooled. To the mixture was added water, and the mixture was extracted with ether. The organic layer was washed with 1N sodium hydroxide solution and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was distilled under reduced pressure (3 mmHg, 170° C.) to give colorless oil of 4-bromo-2-methyl-(2-ethoxyethoxy)benzene (10.6 g).

reactant | 4-bromo-2-methylphenol | 9.3 g | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | potassium carbonate | 9.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethyl ethyl ether | 7.99 g | C(C)OCCBr | C4H9BrO
reactant | 2-bromoethyl ethyl ether | 1.52 g | C(C)OCCBr | C4H9BrO
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-bromo-2-methyl-(2-ethoxyethoxy)benzene | 10.6 g | BrC1=CC(=C(C=C1)OCCOCC)C | C11H15BrO2
